US07713993B2
Synthesis of methyl 5-chloro-2-(4-fluorophenyl)-2-methoxyvalerate
A solution of methyl (4-fluorophenyl)methoxyacetate (300 mg) in THF (1.5 mL) was added dropwise at −78° C. to a solution in THF (7 mL) of lithium diisopropylamide prepared from diisopropylamine (0.26 mL) and n-butyl lithium (2.66 M solution in hexane, 0.63 mL). Then, the reaction solution was gradually heated to −30° C. 1-chloro-3-iodopropane (0.25 ml) was added dropwise to the reaction solution at −30° C. Then, the reaction solution was gradually heated to 0° C. and stirred at the same temperature for one hour. A saturated ammonium chloride solution and ethyl acetate were sequentially added to the reaction solution, and the organic layer was separated. The resulting organic layer was sequentially washed with water, 1 N hydrochloric acid, water, a saturated sodium bicarbonate solution and brine. The resulting organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 152 mg of the title compound. The property values of the compound are as follows.

reactant | methyl (4-fluorophenyl)methoxyacetate | 300 mg | FC1=CC=C(C=C1)COCC(=O)OC | C10H11FO3
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropylamine | 0.26 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 2.66 M, 0.63 mL | C(CCC)[Li]
reactant | 1-chloro-3-iodopropane | 0.25 ml | ClCCCI | C3H6ClI
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | methyl 5-chloro-2-(4-fluorophenyl)-2-methoxyvalerate | 152 mg | ClCCCC(C(=O)OC)(OC)C1=CC=C(C=C1)F | C13H16ClFO3
